US06291530B1
A solution of t-butyl (5-acetyl-2-hydroxyphenoxy)-acetate (1.5 g, 5.6 mmol) and pyridine (1.2 mL, 15.0 mmol) in CH2Cl2 (20 mL) is cooled to −30°, and triflic anhydride (1.5 g, 5.6 mmol) is added via syringe ovr 2 minutes. After stirring 10 minutes H2O (20 mL) is added, the solution is warmed to room temperature, and the solution is washed with 1 N HCl (1×50 mL) and brine (1×50 ml), dried over MgSO4, and concentrated in vacuo. Chromatography (silica, 5:1 hexane/EtOAc) yields t-butyl {5-acetyl-2-[(trifluoromethyl)sulfonyloxy]-phenoxy}acetate.

reactant | t-butyl (5-acetyl-2-hydroxyphenoxy)-acetate | 5.6 mmol, 1.5 g | C(C)(=O)C=1C=CC(=C(OCC(=O)OC(C)(C)C)C1)O | C14H18O5
reactant | pyridine | 15.0 mmol, 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 5.6 mmol, 1.5 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | H2O | 20 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | t-butyl {5-acetyl-2-[(trifluoromethyl)sulfonyloxy]-phenoxy}acetate | C(C)(=O)C=1C=CC(=C(OCC(=O)OC(C)(C)C)C1)OS(=O)(=O)C(F)(F)F | C15H17F3O7S
